US04131686
A mixture of 3.7 g of α-chloromethyl-2-methoxybenzylalcohol (crude oil) and 10.9 g of 3,4-dimethoxyphenethylamine is heated at 130° to 140° C. for 2 hours. After cooling, chloroform is added to the reaction mixture, and said mixture is washed with water. The mixture is dried and evaporated to remove solvent. 30 ml of ethanol are added to the residue obtained. Then, hydrochloric acid-containing diethylether is added to the ethanol mixture, and crystalline precipitates are collected by filtration. 3.0 g of α-(3,4-dimethoxyphenethylaminomethyl)-2-methoxybenzylalcohol hydrochloride are obtained as crystals. M.p. 142°-143° C.

reactant | α-chloromethyl-2-methoxybenzylalcohol | 3.7 g | ClCC(C1=C(C=CC=C1)OC)O | C9H11ClO2
reactant | 3,4-dimethoxyphenethylamine | 10.9 g | COC=1C=C(CCN)C=CC1OC | C10H15NO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | diethylether | C(C)OCC | C4H10O
product | α-(3,4-dimethoxyphenethylaminomethyl)-2-methoxybenzylalcohol hydrochloride | 3.0 g | Cl.COC=1C=C(CCNCC(C2=C(C=CC=C2)OC)O)C=CC1OC | InChI=1S/C19H25NO4.ClH/c1-22-17-7-5-4-6-15(17)16(21)13-20-11-10-14-8-9-18(23-2)19(12-14)24-3;/h4-9,12,16,20-21H,10-11,13H2,1-3H3;1H
